US09371281B2
A solution of 1-methyl-1H-indole-5-carboxylic acid methyl ester (0.17 g, 0.9 mmol), prepared using procedures as described in Example 1, Ag2O (0.22 g, 0.95 mmol), 4-fluoro-benzyl bromide (0.18 g, 0.95 mmol) and dioxane (4 mL) were heated to reflux for 16 hr, then more 4-fluoro-benzyl bromide (90 mg, 0.5 mmol) was added and the solution was heated at reflux an additional 4 hr. After cooling to room temperature, the reaction mixture was diluted with ether (60 mL), washed with aq. NH4Cl (50 mL) and then brine (50 mL). The organic layer was dried over MgSO4, filtered and concentrated. The remaining residue was subjected to flash chromatography (ethyl acetate/hexane, 1:3) to provide 3-(4-fluoro-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester (58 mg, 22% yield).

reactant | 1-methyl-1H-indole-5-carboxylic acid methyl ester | 0.9 mmol, 0.17 g | COC(=O)C=1C=C2C=CN(C2=CC1)C | C11H11NO2
reactant | 4-fluoro-benzyl bromide | 0.95 mmol, 0.18 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
reactant | 4-fluoro-benzyl bromide | 0.5 mmol, 90 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | ether | 60 mL | CCOCC | C4H10O
product | 3-(4-fluoro-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester | 58 mg, 22% yield | COC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=CC=C(C=C1)F | C18H16FNO2
